US06258854B1
Synthesis of 4-Hydroxy-undecanoic acid sodium salt
To a solution of 43.6 g of sodium hydroxide in 150 ml of methanol heated to reflux, 200 g of gamma-undecalactone was dropped in. After stirring for 2 hours at reflux, the mixture was cooled to room temperature and evaporated to dryness. The resulting crystals were washed with hexane to yield 240 g of colorless crystals.

reactant | sodium hydroxide | 43.6 g | [OH-].[Na+]
reactant | gamma-undecalactone | 200 g | CCCCCCCC1CCC(=O)O1 | C11H20O2
solvent | methanol | 150 ml | CO | CH4O
product | 4-Hydroxy-undecanoic acid sodium salt | 240 g | [Na+].OC(CCC(=O)[O-])CCCCCCC | InChI=1S/C11H22O3.Na/c1-2-3-4-5-6-7-10(12)8-9-11(13)14;/h10,12H,2-9H2,1H3,(H,13,14);/q;+1/p-1
